US07713994B2
4-{[4-(2-Pyrrolidin-1-yl-ethyl)-phenylamino]-methylene}-1,4-dihydro-2H-isoquinolin-3-one
A mixture of 0.400 g (1.98 mmol) of (4E)-4-[(dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone and 0.414 g (2.18 mmol) of 4-(2-Pyrrolidin-1-yl-ethyl)-phenylamine in 4 mL of PhCH3 is heated at 110° C. for 2.5 h. The reaction is placed in a freezer and the precipitated material is collected, washed with cold PhCH3(2×) and Et2O and dried in vacuo to give 0.280 g (41%) of gold crystals: mp 169-173° C. (dec); 1H NMR (DMSO-d6) δ 11.4 (d, 1H, J=11.8 Hz), 8.01 (d, 1H, J=11.8 Hz), 7.63 (m, 2H), 7.16 (s, 4H), 7.07 (m, 2H), 4.40 (s, 2H), 2.60 (m, 4H), 2.50 (m, 2H), 1.67 (s (br), 4H); HRMS (ESI) m/e calcd for C22H25N3O 348.20704. found 348.20588 (M+H)+1.

reactant | (4E)-4-[(dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone | 1.98 mmol, 0.400 g | CN(C)\C=C/1\C(NCC2=CC=CC=C12)=O | C12H14N2O
reactant | 4-(2-Pyrrolidin-1-yl-ethyl)-phenylamine | 2.18 mmol, 0.414 g | N1(CCCC1)CCC1=CC=C(C=C1)N | C12H18N2
solvent | PhCH3 | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{[4-(2-Pyrrolidin-1-yl-ethyl)-phenylamino]-methylene}-1,4-dihydro-2H-isoquinolin-3-one | 0.280 g, 41% | N1(CCCC1)CCC1=CC=C(C=C1)NC=C1C(NCC2=CC=CC=C12)=O | C22H25N3O
